US09289419B2
Synthesis of 1-(5-fluoropyridin-2-yl)ethanamine
A mixture of 5N aqueous NaOH solution (5 mL) and N-(1-(5-fluoropyridin-2-yl)ethyl)acetamide (180 mg, 0.4 mmol) was heated under reflux conditions for 12-16 h. After completion of the reaction, the reaction mixture was cooled to a temperature of 20-35° C. The reaction mixture was extracted with DCM, dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford 45 mg of the title compound as a yellow liquid.

reactant | NaOH | 5N, 5 mL | [OH-].[Na+]
reactant | N-(1-(5-fluoropyridin-2-yl)ethyl)acetamide | 0.4 mmol, 180 mg | FC=1C=CC(=NC1)C(C)NC(C)=O | C9H11FN2O
product | 1-(5-fluoropyridin-2-yl)ethanamine | 45 mg | FC=1C=CC(=NC1)C(C)N | C7H9FN2
